US08895733B2
Intermediate 286: 3-Cyclobutoxy-pyridine-2-carboxylic acid
Potassium tert-butoxide (358 mg, 3.19 mmol) was suspended in cyclobutanol (0.5 mL), 3-fluoropyridine-2-carboxylic acid (150 mg, 1.06 mmol) was added and the reaction was stirred at 100 C for 18 h. The mixture was evaporated under vacuum to afford the title compound (100% conversion assumed), which was used in the next step without further purification. Method C HPLC-MS: MH+ requires m/z=194. Found: m/z=194, Rt=0.83 min (100%).

reactant | Potassium tert-butoxide | 3.19 mmol, 358 mg | CC(C)([O-])C.[K+]
reactant | 3-fluoropyridine-2-carboxylic acid | 1.06 mmol, 150 mg | FC=1C(=NC=CC1)C(=O)O | C6H4FNO2
reactant | cyclobutanol | 0.5 mL | C1(CCC1)O | C4H8O
product | 3-Cyclobutoxy-pyridine-2-carboxylic acid | 100% | C1(CCC1)OC=1C(=NC=CC1)C(=O)O | C10H11NO3
